US09079866B2
A mixture of (4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yl)methanol (1.8 g, 6.1 mmol) and SOCl2 (6 mL) in DCM (20 mL) was stirred at 70° Celsius for 4 hours. The reaction mixture was cooled to rt and concentrated to dryness to give 5-(6′-(chloromethyl)-3-fluorobiphenyl-4-yl)pyrazin-2-amine (1.86 g, 98%). 1H NMR (300 MHz, DMSO-d6) δ 8.40 (s, 1H), 8.04 (s, 1H), 7.96 (m, 1H), 7.66-7.57 (m, 1H), 7.51-7.42 (m, 2H), 7.40-7.30 (m, 3H), 6.89-6.62 (br s, 2H), 4.73 (s, 2H).

reactant | (4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yl)methanol | 6.1 mmol, 1.8 g | NC=1N=CC(=NC1)C1=CC=C(C=C1F)C1=C(C=CC=C1)CO | C17H14FN3O
reactant | SOCl2 | 6 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-(6′-(chloromethyl)-3-fluorobiphenyl-4-yl)pyrazin-2-amine | 1.86 g, 98% | ClCC1=CC=CC=C1C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C17H13ClFN3
